US04243666
2-(1-Benzylpiperidin-4-oxy)acetic acid, hydrochloride, (7.0 g) and thionyl chloride (5 ml) in dry chloroform (100 ml) were heated under reflux for 21/2 hours. The solvent was evaporated in vacuo and the resulting acid chloride taken up in chloroform (50 ml) and added dropwise to a solution of n-butylamine (5 ml) in chloroform (50 ml) with stirring at 0°. The solution was stirred at 0° for 4 hours then left at room temperature overnight. The chloroform solution was washed with water (3×50 ml), sodium hydroxide solution (3×50 ml, 2 N) and hydrochloric acid solution (3×50 ml, 2 N). The aqueous acid solution was basified to pH 12 and extracted with chloroform (3×100 ml). The chloroform extract was dried and the solvent evaporated in vacuo. The residue in ether was treated with ethereal hydrogen chloride, the resulting solid collected, washed with ether and dried to give N-n-butyl-2-(1-benzylpiperidin-4-oxy)acetamide, hydrochloride (3.5 g) identified by n.m.r. spectroscopy.

reactant | 2-(1-Benzylpiperidin-4-oxy)acetic acid, hydrochloride | 7.0 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)OCC(=O)O
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-n-butyl-2-(1-benzylpiperidin-4-oxy)acetamide, hydrochloride | 3.5 g | Cl.C(CCC)NC(COC1CCN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C18H28N2O2.ClH/c1-2-3-11-19-18(21)15-22-17-9-12-20(13-10-17)14-16-7-5-4-6-8-16;/h4-8,17H,2-3,9-15H2,1H3,(H,19,21);1H
